US05616579
N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-4-(1,2,4-triazol-3-ylthio)butyramide
Following a procedure similar to that described in Example 34, but using N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-4-chlorobutyramide (prepared as described in Preparation 2) and 3-mercapto-1,2,4-triazole as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as a white powder, melting at 87°-89° C., in a 56% yield.

reactant | N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-4-chlorobutyramide | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCCCl)=O | C19H28ClN3O2
reactant | 3-mercapto-1,2,4-triazole | SC1=NNC=N1 | C2H3N3S
product | N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-4-(1,2,4-triazol-3-ylthio)butyramide | 56% yield | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCCSC1=NNC=N1)=O | C21H30N6O2S
